US07781436B2
N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide hydrochloride
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) (2-amino-ethyl)-carbamic acid tert-butyl ester gave, after treatment with HCl, the title compound.

reactant | {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | C23H20ClF3N2O3
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | HCl | Cl | ClH
product | N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide hydrochloride | Cl.NCCNC(CN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F)=O | InChI=1S/C25H26ClF3N4O2.ClH/c26-17-5-6-19-20(14-33(22(19)13-17)15-23(34)31-10-9-30)24(35)32-11-7-16(8-12-32)18-3-1-2-4-21(18)25(27,28)29;/h1-6,13-14,16H,7-12,15,30H2,(H,31,34);1H
